US04572908
3-{2-[(4-{2,3-Dichlorophenyl}-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl)methoxy]ethylamino}-4-amino-1,2,5-thiadiazole-1-oxide hemihydrate
3-{-2-[(4-{2,3-Dichlorophenyl}-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl)methoxy]ethylamino}-4-methoxy-1,2,5-thiadiazole-1-oxide (0.3 g) was dissolved in ethanolic ammonia (10 ml) and stirred at room temperature for 1 hour. The solvent was evaporated and the residue chromatographed on silica "Kieselgel 60H" (Trade Mark), eluting with ethyl acetate. The product containing fractions were combined and evaporated to give an oil which was triturated with ethyl acetate to give the title compound as a solid, yield 0.15 g, m.p. 135°.

reactant | 3-{-2-[(4-{2,3-Dichlorophenyl}-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl)methoxy]ethylamino}-4-methoxy-1,2,5-thiadiazole-1-oxide | 0.3 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCCNC1=NS(N=C1OC)=O)C(=O)OCC | C23H26Cl2N4O7S
reactant | ammonia | 10 ml | N | H3N
product | 3-{2-[(4-{2,3-Dichlorophenyl}-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl)methoxy]ethylamino}-4-amino-1,2,5-thiadiazole-1-oxide hemihydrate | O.ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCCNC1=NS(N=C1N)=O)C(=O)OCC.ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCCNC1=NS(N=C1N)=O)C(=O)OCC | InChI=1S/2C22H25Cl2N5O6S.H2O/c2*1-4-35-22(31)17-14(10-34-9-8-26-20-19(25)28-36(32)29-20)27-11(2)15(21(30)33-3)16(17)12-6-5-7-13(23)18(12)24;/h2*5-7,16,27H,4,8-10H2,1-3H3,(H2,25,28)(H,26,29);1H2
